US07179801B2
To a solution of 3-(2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)propanamide (6 g) in pyridine (60 ml) was added triphenylmethyl chloride (11.1 g) at room temperature. The mixture was stirred at 60° C. for 17 hours. The reaction mixture was evaporated under reduced pressure and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was triturated with diisopropyl ether and dried in vacuo to give 3-(1-trityl-2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)propanamide (11.2 g).

reactant | 3-(2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)propanamide | 6 g | N1CCN2N=CC(=C21)CCC(=O)N | C8H12N4O
reactant | triphenylmethyl chloride | 11.1 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 3-(1-trityl-2,3-dihydro-1H-imidazo[1,2-b]pyrazol-7-yl)propanamide | 11.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN2N=CC(=C21)CCC(=O)N | C27H26N4O
